US07732618B2
b.) {5-[(4-Fluoro-benzenesulfonyl)-(3-phenoxy-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[(4-Fluoro-benzenesulfonyl)-(3-phenoxy-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.62 (m, 2H), 7.30 (m, 6H), 6.88 (m, 4H), 4.62 (s, 2H), 3.99 (t, 2H), 3.74 (t, 2H), 2.71 (m, 2H), 1.71 (m, 4H), 0.99 (t, 3H). MS calculated for C27H26FN3O5S—H: 524, observed: 524.

reactant | {5-[(4-Fluoro-benzenesulfonyl)-(3-phenoxy-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(CCCOC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)F)CCC)=O | C31H36FN3O5S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[(4-Fluoro-benzenesulfonyl)-(3-phenoxy-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | FC1=CC=C(C=C1)S(=O)(=O)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)CCCOC1=CC=CC=C1 | C27H28FN3O5S
